US08258141B2
Z1: {(R)-1-[2-(4-Hydroxy-piperidin-1-yl)-acetyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester
To a solution of (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (1.5 g, 8.1 mmol) in THF (150 ml) is added TEA (2.3 ml, 16.1 mmol) followed by dropwise addition of chloroacetyl chloride (0.67 ml, 8.5 mmol). The reaction mixture is allowed to stir at room temperature for 2 hours and then treated TEA (2.3 ml, 16.1 mmol) followed by 4-piperidinol (4.07 g, 40.3 mmol). After stirring at 50° C. for 18 hours, the solvent is removed in vacuo and purification of the crude residue by reverse phase column chromatography (Isolute™ C18, 0-100% MeOH in water—0.1% TFA) to yield the title product. [MH+ 328.19].

reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 8.1 mmol, 1.5 g | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
reactant | chloroacetyl chloride | 8.5 mmol, 0.67 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-piperidinol | 40.3 mmol, 4.07 g | N1CCC(CC1)O | C5H11NO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | {(R)-1-[2-(4-Hydroxy-piperidin-1-yl)-acetyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(CN1CCC(CC1)O)=O)=O | C16H29N3O4
